US07816357B2
Preparation of 2-(4-(Trifluoromethyl)benzyl)-6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (750 mg, 1.92 mmol), prepared as described in Example 1F, in DMF (10 mL) was added K2CO3 (270 mg, 1.95 mmol) and 4-(trifluoromethyl)benzyl bromide (460 mg, 1.92 mmol). The reaction mixture was stirred at 75° C. for 1 h under Argon. It was cooled to RT diluted with water (50 mL) and the solid was collected by filtration. The solid was washed with water (25 mL×2) and dried in a vacuum oven at 50° C. overnight to give the title compound, 2-(4-(trifluoromethyl)benzyl)-6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (990 mg, 94%) as yellow powder. HPLC: 4.23 min; MS: M+H=549.

reactant | 6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 1.92 mmol, 750 mg | ClC=1C(=C(C=2N(N1)C(NN2)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4O
reactant | K2CO3 | 1.95 mmol, 270 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(trifluoromethyl)benzyl bromide | 1.92 mmol, 460 mg | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 2-(4-(trifluoromethyl)benzyl)-6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 990 mg, 94% | FC(C1=CC=C(CN2N=C3N(N=C(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)Cl)C2=O)C=C1)(F)F | C25H14Cl3F3N4O
